US07419984B2
N*4*-(4-Bromo-phenyl)-6-(5-chloro-2-methoxy-phenyl)-pyrimidine-2,4-diamine
To a stirred suspension of 4-chloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidin-2-yl-amine (0.054 g, 0.20 mmol) in ethanol (7.5 ml) was added a solution of hydrogen chloride in dioxane (4.0 M, 0.025 ml) followed by 4-bromoaniline (0.069 g, 0.40 mmol). After heating under reflux for 45 minutes, volatiles were removed under reduced pressure. The residue was treated with 1.0 M hydrochloric acid (10 ml) and stirred for 30 minutes. Filtration provided the hydrochloride salt of the title compound (0.08 g, 90% yield). 1H NMR (DMSO-d6) δ 3.90 (s, 3H, CH3), 6.71 (s, 1H, Ar), 7.30 (d, 1H, J=9.0 Hz, Ar), 7.57-7.59 (m, 2H, Ar), 7.65 (dd, 1H, J=9.0 Hz, J=2.4 Hz, Ar), 7.70 (d, 1H, J=2.4 Hz, Ar), 7.80-7.86 (m, 2H, Ar), 11.08 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidin-2-yl-amine | 0.20 mmol, 0.054 g | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OC)N | C11H9Cl2N3O
reactant | hydrogen chloride | Cl | ClH
reactant | 4-bromoaniline | 0.40 mmol, 0.069 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | dioxane | 4.0 M, 0.025 ml | O1CCOCC1 | C4H8O2
product | N*4*-(4-Bromo-phenyl)-6-(5-chloro-2-methoxy-phenyl)-pyrimidine-2,4-diamine | 0.08 g, 90% yield | BrC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OC)N | C17H14BrClN4O
